US07449475B2
N-(5-Chloro-2,4-dihydroxyphenyl)benzamide
To a stirred solution of N-(5-chloro-2,4-dimethoxyphenyl)benzamide (292 mg, 1 mmol) in DCM (10 mL) 1M boron tribromide in DCM (3 mL, 3 mmol) was added dropwise at ambient temperature. A precipitate was formed after 30 min. The stirring was continued over night. The mixture was quenched with methanol (5 mL) and concentrated in vacuo leaving an oil which was used without further purification.

reactant | N-(5-chloro-2,4-dimethoxyphenyl)benzamide | 1 mmol, 292 mg | ClC=1C(=CC(=C(C1)NC(C1=CC=CC=C1)=O)OC)OC | C15H14ClNO3
solvent | DCM | 1M, 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mmol, 3 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Chloro-2,4-dihydroxyphenyl)benzamide | ClC=1C(=CC(=C(C1)NC(C1=CC=CC=C1)=O)O)O | C13H10ClNO3
